US07259175B2
5-Chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole
A solution of [4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol (1.03 g, 3.75 mmol) and triethyl amine (1.05 mL, 7.5 mmol) in methylene chloride (15 mL) is cooled to 0° C., then MeSO2Cl is added dropwise. After 2 hrs, TLC indicated that the reaction is not complete, 10 mol % more of triethyl amine and MeSO2Cl are added. After additional 2 hrs, the reaction mixture is diluted with methylene chloride and washed with sodium bicarbonate, water and brine, dried over sodium sulfate. Concentration gave the crude title compound, which is used for the next step without further purification.

reactant | [4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol | 3.75 mmol, 1.03 g | CC=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C12H10F3NOS
reactant | triethyl amine | 7.5 mmol, 1.05 mL | C(C)N(CC)CC | C6H15N
reactant | MeSO2Cl | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole | ClCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C12H9ClF3NS
